US07923450B2
e) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (131.2 mg, 0.5 mmol) and of 2-bromo-6-phenyl-cyclohexanone (139.2 mg, 0.55 mmol) in ethanol (5 mL) was stirred at room temperature over the weekend. A clear yellow solution was obtained which was heated over night to reflux under an atmosphere of nitrogen. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dichloromethane/methanol (19:1 v/v) as eluent to yield the title compound (110 mg, 53%) as a white solid. MS ISP (m/e): 417.5 (100) [(M+H)+]. 1H NMR (DMSO-D6, 300 MHz): δ (ppm)=10.19 (s, 1H), 7.66 (s, 1H), 7.57 (s, 1H), 7.27 (t, 2H), 7.11-7.18 (m, 4H), 6.95 (s, 1H), 6.71 (d, 1H), 3.98 (m, 1H), 3.34 (s, 3H), 2.73 (m, 2.14 (m, 1H), 2.10 (s, 3H), 1.70-1.91 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.5 mmol, 131.2 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.55 mmol, 139.2 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-(4-phenyl-4,5,6,7-tetrahydro-benzothiazol-2-yl)-amine | 110 mg, 53% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=CC=CC=C2 | C24H24N4OS
